US06642249B2
4-Oxo-thiochroman-3-carboxylic acid methyl ester (0.200 g, 0.90 mmol), 4-cyanophenylhydrazine (0.132 g, 0.99 mmol) together with a small amount of pivalic acid was heated at 118° C. in an oil bath under N2. After 1 h the mixture was cooled to room temperature and then triturated with ether. The precipitate was filtered and dried to yield 4-(3-oxo-1,4-dihydro-3H-thiochromeno[4,3-c]pyrazol-2-yl)-benzonitrile (0.233 g): 1H NMR (400 MHz, DMSO-d6) δ 8.06 (2H, d), 7.92 (2H, d), 7.80-7.83 (1H, m), 7.30-7.33 (1H, m), 7.18-7.25 (2H, m), 3.91 (2H, s).

reactant | 4-Oxo-thiochroman-3-carboxylic acid methyl ester | 0.90 mmol, 0.200 g | COC(=O)C1CSC2=CC=CC=C2C1=O | C11H10O3S
reactant | 4-cyanophenylhydrazine | 0.99 mmol, 0.132 g | C(#N)C1=CC=C(C=C1)NN | C7H7N3
reactant | pivalic acid | C(C(C)(C)C)(=O)O | C5H10O2
product | 4-(3-oxo-1,4-dihydro-3H-thiochromeno[4,3-c]pyrazol-2-yl)-benzonitrile | 0.233 g | O=C1C2=C(NN1C1=CC=C(C#N)C=C1)C=1C=CC=CC1SC2 | C17H11N3OS
